US05312625
Synthesis of 2-(4-bromobutyl)-1,3,4,5-tetrahydro-2-benzazepine-1,3-dione
A solution of 200 mg of 1,3,4,5-tetrahydro-2-benzazepine-1,3-dione dissolved in 20 ml of dimethylformamide was ice-cooled, and then 0.209 ml (1.5 equivalents) of 1,4-dibromobutane, 54.8 mg (1.2 equivalents) of 60% sodium hydride were added, followed by stirring under ice-cooling for 1.5 hours. The reaction treatment and purification were conducted in the same manner as in Example 13, to obtain 213 mg of the desired compound (yield 60%).

reactant | 1,3,4,5-tetrahydro-2-benzazepine-1,3-dione | 200 mg | C1(NC(CCC2=C1C=CC=C2)=O)=O | C10H9NO2
reactant | 1,4-dibromobutane | 0.209 ml, 1.5 equivalents | BrCCCCBr | C4H8Br2
reactant | sodium hydride | 54.8 mg, 1.2 equivalents | [H-].[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-(4-bromobutyl)-1,3,4,5-tetrahydro-2-benzazepine-1,3-dione | 213 mg, yield 60% | BrCCCCN1C(C2=C(CCC1=O)C=CC=C2)=O | C14H16BrNO2
